US08183239B2
Step B: 2-[4-(4-Cyclopentanecarbonyl-2-fluoro-phenyl)-piperazin-1-yl]-N,N-diethyl-2-phenyl-acetamide.
A solution of 4-(4-cyclopentanecarbonyl-2-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (0.11 g, 0.29 mmol) in DCM (5 mL) was treated with trifluoroacetic acid (1.5 mL). After 3 h the solvent was removed and water (5 mL) and 1 M NaOH were added (˜pH 10). The mixture was extracted with DCM and the solvent removed. The residue was then taken up in DMF (2 mL) and K2CO3 was added (0.13 g, 0.91 mmol). This mixture was then treated with 2-bromo-N,N-diethyl-2-phenyl-acetamide (0.11 g) as described in previous examples to provide 0.072 g of the title compound. MS: 466.6. 1H NMR (CDCl3): 7.69-7.66 (m, 1H), 7.63-7.59 (m, 1H), 7.47-7.43 (m, 2H), 7.38-7.30 (m, 3H), 6.90-6.86 (m, 1H), 4.26 (s, 1H), 3.63-3.56 (m, 1H), 3.51-3.35 (m, 2H), 3.31-3.14 (m, 6H), 2.76-2.67 (m, 4H), 1.92-1.85 (m, 4H), 1.75-1.57 (m, 4H), 1.09 (t, J=7.1, 3H) 1.04 (t, J=7.1, 3H).

reactant | 4-(4-cyclopentanecarbonyl-2-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.29 mmol, 0.11 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C(=O)C1CCCC1)F | C21H29FN2O3
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(4-Cyclopentanecarbonyl-2-fluoro-phenyl)-piperazin-1-yl]-N,N-diethyl-2-phenyl-acetamide | 0.072 g | C1(CCCC1)C(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(C(=O)N(CC)CC)C1=CC=CC=C1)F | C28H36FN3O2
